US05681812
Synthesis of Distearyl Ether
Distearyl ether was synthesized by reacting stearyl bromide (Sigma) with PEG-900 in the presence of potassium hydroxide. Stearyl bromide (4.168 g in 10 ml toluene) was slowly added with stirring to 4.64 g of PEG-900 in 10 ml of toluene at 45° C. The mixture was then stirred at 60° C. for 30 min. and refluxed for 6 hrs. The final product was treated with charcoal, filtered and isolated from toluene.

reactant | stearyl bromide | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | potassium hydroxide | [OH-].[K+]
reactant | Stearyl bromide | 10 ml, 4.168 g | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | charcoal | C | CH4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Distearyl Ether | C(CCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C36H74O
